US04713109
To a solution of 129.2 g (0.69 mol) of 2,5-dichloro-3-nitropyridine in 1300 ml of dioxane is added 26.0 g of Raney-nickel, that has previously been washed with ethanol. This mixture is then hydrogenated with hydrogen under normal pressure at 20°-35° C. After uptake of 20% of the theoretical amount of hydrogen, another 30 g of washed Raney-nickel catalyst are added. After hydrogenating for 22 hours, the catalyst is filtered off, the solvent is evaporated and the residue is crystallized from hexane/ethyl acetate. Thus, 84.9 g of 3-amino-2,5-dichloropyridine (78% of the theory) are obtained, which melts at 129°-132° C.

reactant | 2,5-dichloro-3-nitropyridine | 0.69 mol, 129.2 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
solvent | dioxane | 1300 ml | O1CCOCC1 | C4H8O2
catalyst | Raney-nickel | 26.0 g | [Ni] | Ni
product | 3-amino-2,5-dichloropyridine | 84.9 g | NC=1C(=NC=C(C1)Cl)Cl | C5H4Cl2N2
